US05684034
5-Hydroxy-2-methyl-1-(phenylmethyl)-1H-indole-3-acetamide (400 mg, 1.4 mmol) was dissolved in 50 mL of DMSO, 40 mg (1.0 mmol) of 60% NaH/mineral oil added, stirred approximately 0.5 hour, 0.2 mL of benzyl bromide added and stirring maintained 2.5 hours. The mixture was diluted with water, extracted with EtOAc, the EtOAc solution washed with water, saturated NaCl solution, dried (Na2SO4), and concentrated at reduced pressure. The residue was chromatographed on silica (eluted with a gradient, CH2Cl2 →2% MeOH/CH2Cl2) and crystallized from CH2Cl2 /MeOH to give 440 mg (82% yield) of 5-benzyloxy-2-methyl-1-(phenylmethyl)-1H-indole-3-acetamide, mp, 118°-120° C.

reactant | 5-Hydroxy-2-methyl-1-(phenylmethyl)-1H-indole-3-acetamide | 1.4 mmol, 400 mg | OC=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)C)CC(=O)N | C18H18N2O2
reactant | NaH | 1.0 mmol, 40 mg | [H-].[Na+]
reactant | benzyl bromide | 0.2 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 5-benzyloxy-2-methyl-1-(phenylmethyl)-1H-indole-3-acetamide | 440 mg, 82% yield | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)C)CC(=O)N | C25H24N2O2
